US08557801B2
N,2-bis(4-fluorophenyl)imidazo[1,2-a]pyrazin-3-amine
Example 26 was synthesized by the following way: to a stirred solution of 2-aminopyrazine (683 mg, 7.18 mmol) in 50 mL of MeOH were added 4-fluorobenzaldehyde (1.16 mL, 10.8 mmol), 1-fluoro-4-isocyanobenzene (1.0 g, 8.25 mmol), and followed by 1.0 N HClO4 in MeOH (0.72 mL, 0.72 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated and the residue was subjected to flash chromatography purification. The collected organic solution was concentrated to give the title compound as yellow oil.

reactant | 2-aminopyrazine | 7.18 mmol, 683 mg | NC1=NC=CN=C1 | C4H5N3
reactant | 4-fluorobenzaldehyde | 10.8 mmol, 1.16 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 1-fluoro-4-isocyanobenzene | 8.25 mmol, 1.0 g | FC1=CC=C(C=C1)[N+]#[C-] | C7H4FN
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 0.72 mmol, 0.72 mL | CO | CH4O
product | N,2-bis(4-fluorophenyl)imidazo[1,2-a]pyrazin-3-amine | FC1=CC=C(C=C1)NC1=C(N=C2N1C=CN=C2)C2=CC=C(C=C2)F | C18H12F2N4
